US07122546B2
A mixture of (6-chloro-3-chloromethyl-pyridazin-4-yl)-diethyl-amine (crude, 180 mg, 0.77 mmol), 2-fluoro-6-(1H-imidazol-2-yl)-pyridine (78 mg, 0.48 mmol) and K2CO3 (330 mg, 2.4 mmol) in DMF (5 mL) is stirred at room temperature overnight. The reaction is quenched with brine (4 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers are dried and solvent removed. PTLC separation (10% MeOH in DCM) gives 39 mg of {6-chloro-3-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-pyridazin-4-yl}-diethyl-amine as a solid. 1H NMR (CDCl3) 8.12 dd, 1H), 7.90 (dd, 1H), 7.19 (s, 1H), 7.07 (s, 1H), 6.79 (s, 1H), 6.77 (dd, 1H), 6.04 (s, 2H), 3.28 (q, 4H), 1.17 (t, 6H).

reactant | (6-chloro-3-chloromethyl-pyridazin-4-yl)-diethyl-amine | 0.77 mmol, 180 mg | ClC1=CC(=C(N=N1)CCl)N(CC)CC | C9H13Cl2N3
reactant | 2-fluoro-6-(1H-imidazol-2-yl)-pyridine | 0.48 mmol, 78 mg | FC1=NC(=CC=C1)C=1NC=CN1 | C8H6FN3
reactant | K2CO3 | 2.4 mmol, 330 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | {6-chloro-3-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-pyridazin-4-yl}-diethyl-amine | 39 mg | ClC1=CC(=C(N=N1)CN1C(=NC=C1)C1=NC(=CC=C1)F)N(CC)CC | C17H18ClFN6
